US05434158
A solution of 4.8 g (19.6 mmol) of 2-(S)-(3,4-dichlorophenyl)-4-pentenoic acid in 50 mL of CH2Cl2 and 10 drops of DMF was cooled in an ice bath and 1.8 mL of oxalyl chloride was added. The solution was stirred for 15 min after gas evolution had ceased. The mixture was concentrated in vacuo and the residue was diluted with 50 mL of CH2Cl2. The solution was cooled in ice bath as 2.6 mL (20.4 mmol) of N-benzyl-methyl amine and 1.7 mL (21 mmol) of pyridine were added. After stirring for 1 h at ice bath temperature the solution was diluted with CH2Cl2 and washed with water, 1.2N HCl and brine. The solution was dried over Na2SO4 and concentrated to give N-benzyl-N-methyl-2(S)-(3,4-dichlorophenyl)-4-pentenoamide as an oil.

reactant | 2-(S)-(3,4-dichlorophenyl)-4-pentenoic acid | 19.6 mmol, 4.8 g | ClC=1C=C(C=CC1Cl)[C@@H](C(=O)O)CC=C | C11H10Cl2O2
reactant | oxalyl chloride | 1.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-benzyl-methyl amine | 20.4 mmol, 2.6 mL | C(C1=CC=CC=C1)NC | C8H11N
reactant | pyridine | 21 mmol, 1.7 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 10 drops | CN(C)C=O | C3H7NO
product | N-benzyl-N-methyl-2(S)-(3,4-dichlorophenyl)-4-pentenoamide | C(C1=CC=CC=C1)N(C([C@@H](CC=C)C1=CC(=C(C=C1)Cl)Cl)=O)C | C19H19Cl2NO
